US08222424B2
2-Chloro-5-(1H-pyrrole-3-carbonyl)-benzenesulfonamide
5-(1-Benzenesulfonyl-1H-pyrrole-3-carbonyl)-2-chloro-benzenesulfonamide (0.1 g, 0.23 mmol) is dissolved in 3 mL of 2:1 (v:v) mixture of methanol and 5 N aqueous sodium hydroxide and heated at reflux for 20 minutes then the reaction mixture is allowed to cool down and the organic solvent is removed in vacuo. The aqueous solution is acidified with 5 N HCl to pH 3, thoroughly extracted with ethyl acetate, then the combined organic extracts are washed with water, a saturated sodium chloride solution, dried with magnesium sulfate, and concentrated in vacuo. Recrystallization from ethyl acetate/methylene chloride provides 43 mg (66%) of the title compound as a white solid. 1H NMR (DMSO): δ 11.70 (s, 1H), 8.70 (m, 1H), 8.00 (m, 1H), 7.80 (m, 3H), 7.50 (m, 1H), 7.00 (m, 1H), 6.60 (m, 1H). MS (m/z): 285 (M+1) Analytics calculated For C11H9N2ClO3S: C, 46.40; H, 3.19; N, 9.84. Found: C, 45.84; H, 2.90; N, 9.41.

reactant | 5-(1-Benzenesulfonyl-1H-pyrrole-3-carbonyl)-2-chloro-benzenesulfonamide | 0.23 mmol, 0.1 g | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C=C1)C(=O)C=1C=CC(=C(C1)S(=O)(=O)N)Cl | C17H13ClN2O5S2
solvent | methanol | CO | CH4O
solvent | sodium hydroxide | 5 N | [OH-].[Na+]
product | 2-Chloro-5-(1H-pyrrole-3-carbonyl)-benzenesulfonamide | 43 mg, 66% | ClC1=C(C=C(C=C1)C(=O)C1=CNC=C1)S(=O)(=O)N | C11H9ClN2O3S
